US05994569
12.97 g (62.7 mmol) of (Z)-(R)-1-Chloro-6-trimethylsilanyl-hex-4en-2-ol was dissolved in 215 ml of abs. THF. A solution of 60.34 g (1.08 mol) of KOH in 61 g of water was added ant the heterogeneous mixture stirred at 30° for 24 h, until GC analysis indicated the disappearance of the starting chlorohydrine. The reaction mixture was then poured onto crushed ice/NH4Cl, extracted with ether, dried over sodium sulfate, and the solvents removed i.V. Thereby, 10.5 g of (Z)-(R)-trimethyl-(4-oxiranyl-but-2-enyl)silane was isolated, 93% pure according to GC, which was used as such for the next step.

reactant | (Z)-(R)-1-Chloro-6-trimethylsilanyl-hex-4en-2-ol | 62.7 mmol, 12.97 g | ClC[C@@H](C\C=C/C[Si](C)(C)C)O | C9H19ClOSi
reactant | THF | C1CCOC1 | C4H8O
reactant | KOH | 1.08 mol, 60.34 g | [OH-].[K+]
solvent | water | 61 g | O | H2O
product | (Z)-(R)-trimethyl-(4-oxiranyl-but-2-enyl)silane | 10.5 g | C[Si](C\C=C/C[C@H]1OC1)(C)C | C9H18OSi
